US08735379B2
To a mixture of benzyl 3-aminobutan-2-ylcarbamate (5.3 g, 23.8 mmol), 2-hydroxybenzoic acid (3.28 g, 23.8 mmol) and imidazole (1.62 g, 23.8 mmol) in EtOAc (180 mL) at 0° C. was slowly added a solution of DCC (4.90 g, 23.8 mmol) in EtOAc (20 mL). The reaction mixture was stirred (RT, 16 h), filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with PE-EA (5:1) to afford benzyl 3-(2-hydroxybenzamido)butan-2-ylcarbamate (3.2 g, 40%) as a colorless oil. Mass calculated for C19H22N2O4=342.39. found: [M+H]+=343.2.

reactant | benzyl 3-aminobutan-2-ylcarbamate | 23.8 mmol, 5.3 g | NC(C(C)NC(OCC1=CC=CC=C1)=O)C | C12H18N2O2
reactant | 2-hydroxybenzoic acid | 23.8 mmol, 3.28 g | OC1=C(C(=O)O)C=CC=C1 | C7H6O3
reactant | imidazole | 23.8 mmol, 1.62 g | N1C=NC=C1 | C3H4N2
reactant | DCC | 23.8 mmol, 4.90 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EtOAc | 180 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | benzyl 3-(2-hydroxybenzamido)butan-2-ylcarbamate | 3.2 g, 40% | OC1=C(C(=O)NC(C(C)NC(OCC2=CC=CC=C2)=O)C)C=CC=C1 | C19H22N2O4
